US05106921
I. Preparation of N-(2-hydroxyethyl)-p-hydroxybenzamide
A mixture of 128.40g (.60 moles) of phenyl-4-hydroxybenzoate and 36.97g 606 moles) of ethanolamine was heated to 150° C. while stirring under a nitrogen atmosphere. After 2 hours at 150° C. the amber melt was cooled to ~150° C. and then poured into 1000 ml of chloroform. Within a few minutes a solid yellow precipitate formed. The precipitate was isolated by vacuum filtration washed with fresh chloroform and then air dried. This material was identified by NMR and IR spectroscopy as N-(2-hydroxyethyl)-p-hydroxybenzamide. A 95% yield was obtained.

reactant | phenyl-4-hydroxybenzoate | C1(=CC=CC=C1)OC(C1=CC=C(C=C1)O)=O | C13H10O3
reactant | ethanolamine | C(O)CN | C2H7NO
solvent | chloroform | 1000 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2-hydroxyethyl)-p-hydroxybenzamide | 95% yield | OCCNC(C1=CC=C(C=C1)O)=O | C9H11NO3
